US07662972B2
2-Acetylamino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifluoroethyl)benzoic acid amide (Compound of the Present Invention No. 5-333)
In a solution of 0.05 g of 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifiuoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifiuoroethyl) benzoic acid amide (Compound of the present invention No. 5-329) synthesized in Synthetic Example 12 and 0.15 ml of triethylamine in 2 ml of chloroform, 0.10 ml of acetic anhydride was added under cooling with ice with stirring, and stirred at room temperature for 20 hours. After the completion of the reaction, the reaction mixture was subjected to purification with medium-pressure preparative liquid chromatography (Yamazen Corporation, medium pressure preparative system; YFLC-Wprep) that was eluted with ethyl acetate-hexane (1:8 to 1:1 gradient), and 0.045 g of the aimed product was obtained as pale yellow resinous substance.

reactant | 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifiuoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifiuoroethyl) benzoic acid amide | 0.05 g | NC1=C(C(=O)NCC(F)(F)F)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H13Cl2F6N3O2
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Acetylamino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifluoroethyl)benzoic acid amide | 0.045 g | C(C)(=O)NC1=C(C(=O)NCC(F)(F)F)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C21H15Cl2F6N3O3
